US07223767B2
A solution of 2-bromo-2-propylcyclohexanone (6.21 g, 28.3 mmol) and chlorotrimethylsilane (9.35 mL, 8.0 g, 73.7 mmol) in 65 mL THF was added dropwise to a slurry of Zn (2.78 g, 42.5 mmol) and TMEDA (2.2 mL, 1.65 g, 14.2 mmol) in 35 mL THF cooled in an ice bath. The mixture was allowed to stir in the cold for an additional 1.5 hrs, then allowed to warm to room temp. The mixture was filtered to remove the insolubles. The solvent was evaporated under reduced pressure and the residue extracted with Et2O (200 mL in 2 portions). The combined ethereal extracts were evaporated under reduced pressure and the residue fractionated under reduced pressure. A fraction boiling at 92°-96° (13 torr) was collected to afford 4.79 g (80%) of trimethyl(2-propylcyclohex-1-enyloxy)silane. MS (EI) 212 M(+).

reactant | 2-bromo-2-propylcyclohexanone | 28.3 mmol, 6.21 g | BrC1(C(CCCC1)=O)CCC | C9H15BrO
reactant | chlorotrimethylsilane | 73.7 mmol, 9.35 mL, 8.0 g | Cl[Si](C)(C)C | C3H9ClSi
reactant | TMEDA | 14.2 mmol, 2.2 mL, 1.65 g | CN(C)CCN(C)C | C6H16N2
solvent | THF | 65 mL | C1CCOC1 | C4H8O
solvent | THF | 35 mL | C1CCOC1 | C4H8O
catalyst | Zn | 42.5 mmol, 2.78 g | [Zn] | Zn
product | trimethyl(2-propylcyclohex-1-enyloxy)silane | 4.79 g, 80% | C[Si](OC1=C(CCCC1)CCC)(C)C | C12H24OSi
